US04039543
A suspension of 3.6 g. of sodium hydride (50% dispersion in oil) and 9.4 g. of dimethylsulfone in 50 ml. of absolute dimethylsulfoxide was stirred with the exclusion of moisture for 2.5 hours at 50° C. and then treated with 11.1 g. of methyl 3,5-bis(dimethylamino)benzoate. The mixture was stirred for 18 hours at room temperature, diluted with 500 ml. of water and extracted with 600 ml. of ethyl acetate. The ethyl acetate phases were washed with 300 ml. of water, dried over magnesium sulfate and evaporated to dryness in vacuo. Recrystallization of the residue from ethyl acetate yielded 3',5'-bis-(dimethylamino)-2-methylsulfonylacetophenone, having a melting point of 151°-153° C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | methyl 3,5-bis(dimethylamino)benzoate | CN(C=1C=C(C(=O)OC)C=C(C1)N(C)C)C | C12H18N2O2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3',5'-bis-(dimethylamino)-2-methylsulfonylacetophenone | CN(C=1C=C(C=C(C1)N(C)C)C(CS(=O)(=O)C)=O)C | C13H20N2O3S
